US09193688B2
N-benzyl isatoic anhydride (21).
Reagents: Isatoic anhydride (6.13 mmols, 1 g); Sodium hydride (9.2 mmols, 0.22 g); Benzyl bromide (12.3 mmols, 1.4 g). Yield: 0.2 g (15%), white solid, m.p.=139° C.-140° C.

reactant | Isatoic anhydride | 6.13 mmols, 1 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | Sodium hydride | 9.2 mmols, 0.22 g | [H-].[Na+]
reactant | Benzyl bromide | 12.3 mmols, 1.4 g | C(C1=CC=CC=C1)Br | C7H7Br
product | N-benzyl isatoic anhydride | C(C1=CC=CC=C1)N1C=2C(C(=O)OC1=O)=CC=CC2 | C15H11NO3
